US06043242
24. 6-{3-[2-(4,6-Dimethyl-pyrimidin-2-ylsulfanylmethyl)-3-methyl-pyridin-4-ylsulfanyl]-propylsulfanyl}-3-nitroimidazo[1,2-b]pyridazine
A suspension of 4,6-dimethyl-pyrimidine-2-thiol (0.35 g, 2.5 mmol) and 6-[3-(2-chloromethyl-3-methyl-pyridin-4-ylsulfanyl)-propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine (1.03 g, 2.5 mmol) in 2-propanol (50 ml) is heated under reflux for 4 h under a nitrogen atmosphere. After cooling, the mixture is treated with ice water (100 ml), adjusted to pH 10 with 40% strength sodium hydroxide solution, and extracted with ethyl acetate. The combined extracts are washed with sodium carbonate solution, dried over magnesium sulfate and evaporated in vacuo. The residue is crystallized from acetonitrile to give the title compound as a colourless solid, 0.93 g (76%). M.p. 145-7° C.

reactant | 4,6-dimethyl-pyrimidine-2-thiol | 2.5 mmol, 0.35 g | CC1=NC(=NC(=C1)C)S | C6H8N2S
reactant | 6-[3-(2-chloromethyl-3-methyl-pyridin-4-ylsulfanyl)-propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine | 2.5 mmol, 1.03 g | ClCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H16ClN5O2S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | 6-{3-[2-(4,6-Dimethyl-pyrimidin-2-ylsulfanylmethyl)-3-methyl-pyridin-4-ylsulfanyl]-propylsulfanyl}-3-nitroimidazo[1,2-b]pyridazine | CC1=NC(=NC(=C1)C)SCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C22H23N7O2S3
